spice
* NMOS with drain, gate, source
M1 2 6 4 4 NMOS
* Resistors
R1 2 3 R1_value
? Missing component
* Voltage source and ground
V1 6 0 Vin
Vdd 2 0 DC Vdd_value
* Output
Vout 3
* DC supply
.dc Vin 0 Vdd_value 0.1
* Analysis
.op
.end
